US05206242
3-(4-Carbethoxyphenyl)-5-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-oxazolidine
1.58 g (4 millimoles) of N-(4-carbethoxyphenyl)-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-2-aminoethanol were stirred with 20 ml of 1N sodium hydrogen phosphite solution and 2 ml (20 millimoles) of formalin solution in 20 ml of dioxane for 1 hour at 60° C. The mixture was then poured onto water and extracted with ether, and the organic phase was washed with 2N sodium hydroxide solution and water, dried over magnesium sulfate and evaporated down. Recrystallization from methanol gave 1.0 g of the title compound, Rf =0.51 (thin layer chromatography, silica gel; 7:1 n-heptane/ethyl acetate).

reactant | N-(4-carbethoxyphenyl)-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-2-aminoethanol | 4 millimoles, 1.58 g | C(=O)(OCC)C1=CC=C(C=C1)NCC(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H33NO3
reactant | sodium hydrogen phosphite | 1N, 20 ml | P(O)([O-])[O-].[Na+].[Na+]
reactant | formalin | 20 millimoles, 2 ml | C=O | CH2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-(4-Carbethoxyphenyl)-5-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-oxazolidine | 1.0 g | C(=O)(OCC)C1=CC=C(C=C1)N1COC(C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C26H33NO3
